US08809369B2
To a stirred solution of 4-amino-benzoic acid ethyl ester (12.9 g, 78.4 mmol) and 3-formyl-benzoic acid methyl ester (12.9 g, 78.4 mmol) in acetonitrile (150 mL) were added isobutene (21.0 mL, 313.5 mmol) and ytterbium(III) trifluoromethanesulfonate (Yb(OTf)3) (5.8 g, 9.5 mmol). The resulting mixture was stirred at 85° C. for 18 h in sealed tube. The mixture was diluted with ethyl acetate (300 mL) and washed with water (100 mL×2) and brine (100 mL×2) and then dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 10-50% ethyl acetate in petroleum ether) to afford 2-(3-methoxycarbonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (10.1 g, 35.0%) as a light yellow solid: MS (ESI) M+1=368.1.

reactant | 4-amino-benzoic acid ethyl ester | 78.4 mmol, 12.9 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 3-formyl-benzoic acid methyl ester | 78.4 mmol, 12.9 g | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | isobutene | 313.5 mmol, 21.0 mL | C=C(C)C | C4H8
reactant | ytterbium(III) trifluoromethanesulfonate | 9.5 mmol, 5.8 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-methoxycarbonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 10.1 g, 35.0% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(=O)OC)(C)C | C22H25NO4
